US04032676
N-(2,3,4,5,6-pentahydroxy-hexyl)-L-(+)-glutamic acid
The product was made from D-glucose and L-(+)-glutamic acid using Raney nickel or palladium/activated carbon (10%) as a catalyst. The product had a melting point of 94° C. and an RF -value of 0.61 (determined on DC-finished plates of silica gel G (Merck) with a transporting fluid made up of 85 parts by volume of methanol and 15 parts by volume of water).

reactant | D-glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | L-(+)-glutamic acid | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
reactant | methanol | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
catalyst | palladium | [Pd] | Pd
solvent | water | O | H2O
product | N-(2,3,4,5,6-pentahydroxy-hexyl)-L-(+)-glutamic acid | OC(CN[C@@H](CCC(=O)O)C(=O)O)C(C(C(CO)O)O)O | C11H21NO9
